US08084477B2
Step A. (R)-2-(4-Chlorophenylsulfonamido)-5,5,5-trifluoropentanamide
To a suitable dry vessel was added (R)-2-amino-5,5,5-trifluoropentanamide hydrochloride (199.52 g 0.966 mol, 1.0 equiv) followed by 4-chlorobenzenesulfonyl chloride (215.22 g 0.989 mol, 1.02 equiv, 97% w/w %) and 1.6 L of THF at room temperature. Triethylamine (206.5 g, 2.04 mol, 2.1 equiv.) was added over 20 min, maintaining the pot temperature at 15-25° C., and the resulting white slurry was stirred at 15-25° C. for 30 min. Water (1.4 L, 7 vol) of was added to the reaction mixture at 20-25° C. and then THF (1.4 L, 7 vol) was removed by distillation under vacuum (the pot temperature was maintained at 40-60° C. under 250-400 mmHg during distillation process). When the distillation process was complete, 1.4 L (7 vol) of water was added over 30 min while maintaining the pot temperature at 50-60° C., and the resulting slurry was stirred at 50-60° C. for 30 min and then cooled to 10° C. The slurry was agitated for not less than 1 hour, and the product was filtered. The filter cake was washed with water (600 mL each wash) until the pH of the cake wash measured ≧5. The cake was dried under vacuum at not more than 70° C. (jacket temp.) until the loss on drying is <0.5 w/w %, giving the title compound as a white solid (300 g, 91% yield.) 1H NMR (DMSO-d6) (400 MHz) δ 160-1.90 (two m, 1H each of CH2), 2.10-2.35 (m, 2H of CH2—CF3), 3.85-3.88 (m,1H, —(CONH2)CH(NH), 7.13 & 7.37 (br s, 1H, each of CONH2), 7.61 (m, 2H, Ar—Ha), 7.64 (m, 2H, Ar—Hb), 8.18 (d, 1H, J=8.0 Hz, NH—SO2). 13C NMR (DMSO-d6) (100.0 MHz) δ 171.75, 140.27, 137.77, 131.71, 129.56, 128.95, 126.22, 55.12, 30.1, 29.82, 29.53, 29.25, 25.82, 25.79.

reactant | (R)-2-amino-5,5,5-trifluoropentanamide hydrochloride | 0.966 mol, 199.52 g, 1.0 equiv | Cl.N[C@@H](C(=O)N)CCC(F)(F)F
reactant | 4-chlorobenzenesulfonyl chloride | 0.989 mol, 215.22 g, 1.02 equiv | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | THF | 1.6 L | C1CCOC1 | C4H8O
reactant | Triethylamine | 2.04 mol, 206.5 g, 2.1 equiv. | C(C)N(CC)CC | C6H15N
solvent | Water | 1.4 L | O | H2O
product | (R)-2-(4-Chlorophenylsulfonamido)-5,5,5-trifluoropentanamide | 300 g, 91% yield | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)N)CCC(F)(F)F | C11H12ClF3N2O3S
